US04291034
To a suspension of 0.96 g of 50% sodium hydride in 10 ml of N,N-dimethylformamide at -10° C. is added dropwise a solution of 5.14 g of 5-(2,4-dichlorophenyl)cyclohexan-1,3-dione in 40 ml of N,N-dimethylformamide. During the addition frothing occurs and the temperature rises to 10° C. The mixture is then stirred at room temperature for 1 hr and cooled to 5° C. A solution of 3.96 g of 5-chloroisatoic anhydride in 40 ml of N,N-dimethylformamide is added and stirring is continued at room temperature for 18 hrs and then at 85°-90° C. for 5 hr. The mixture is poured into 1300 ml of ice water containing 10 ml of concentrated hydrochloric acid. The solid is collected, washed with water, and suspended in 200 ml of methanol. The suspension is heated on a steam bath for 0.5 hr, cooled and filtered. The solid is washed with methanol and then with ether and dried in vacuo at 60° C. for 18 hrs to give 7-chloro-3-(2,4-dichlorophenyl)-3,4-dihydro-1,9(2H,10H)-acridinedione; mp 308°-310° C.

reactant | sodium hydride | 0.96 g | [H-].[Na+]
reactant | 5-(2,4-dichlorophenyl)cyclohexan-1,3-dione | 5.14 g | ClC1=C(C=CC(=C1)Cl)C1CC(CC(C1)=O)=O | C12H10Cl2O2
reactant | 5-chloroisatoic anhydride | 3.96 g | ClC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4ClNO3
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 7-chloro-3-(2,4-dichlorophenyl)-3,4-dihydro-1,9(2H,10H)-acridinedione | ClC1=CC=C2NC=3CC(CC(C3C(C2=C1)=O)=O)C1=C(C=C(C=C1)Cl)Cl | C19H12Cl3NO2
